US08466186B2
(c) N-(2,4-Difluoro-3-isothiocyanato-benzyl)-2,2-dimethyl-propionamide
1,1′-Thiocarbonyldi-2-pyridone (546 mg, 2.35 mmol) was added to a mixture of N-(3-amino-2,4-difluoro-benzyl)-2,2-dimethyl-propionamide (570 mg, 2.35 mmol) and dioxane (20 mL) and stirred at reflux overnight. The mixture was concentrated, diluted with DCM and filtered over silica gel. The filtrate was concentrated to give the sub-title compound.

reactant | 1,1′-Thiocarbonyldi-2-pyridone | 2.35 mmol, 546 mg | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
reactant | N-(3-amino-2,4-difluoro-benzyl)-2,2-dimethyl-propionamide | 2.35 mmol, 570 mg | NC=1C(=C(CNC(C(C)(C)C)=O)C=CC1F)F | C12H16F2N2O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | N-(2,4-Difluoro-3-isothiocyanato-benzyl)-2,2-dimethyl-propionamide | FC1=C(CNC(C(C)(C)C)=O)C=CC(=C1N=C=S)F | C13H14F2N2OS
